US05723410
N3 -(1,1-Dimethylethyl)-N2,N2,1-trimethyl-1H-pyrrole-2,3-disulfonamide
A solution of 6.48 g (30 mmol) of N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide in 150 mL of anhydrous tetrahydrofuran (THF) under nitrogen atmosphere was cooled to -78° C. The colorless reaction was treated with 61.5 mmol of 2.38M n-butyllithium in hexanes dropwise at such a rate as to keep the temperature below -65° C. After ca. 1 hour at -78° C., liquified sulfur dioxide was added (180 mmol). The amber solution was warmed to room temperature and stirred for ca. 1 hour. The THF was removed under reduced pressure. The residue was dissolved in 150 mL glacial acetic acid, cooled to 20° C. and then treated with 31 mmol of N-chlorosuccinimide. After ca. 1 hour at room temperature the acetic acid was evaporated at reduced pressure and the residue was dissolved in ethyl acetate. This solution was washed successively with water, NaHCO3 solution, brine, dried (MgSO4) and evaporated invacuo. The residue was dissolved in methylene chloride (150 mL), cooled to -20° C. and treated with 75 mmol of liquefied dimethylimine. The reaction mixture was allowed to warm to room temperature and stir overnight ca. 16 hours. The solution was washed with 1N HCl, dried (MgSO4) and evaporated. The crude material was dissolved in acetonitrile and treated with activated charcoal, filtered and concentrated. The residue was triturated with hexanes/n-butyl chloride to yield 6.95 g of the title compound as a light brown solid, m.p. 98°-101° C.

reactant | N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide | 30 mmol, 6.48 g | CC(C)(C)NS(=O)(=O)C1=CN(C=C1)C | C9H16N2O2S
reactant | n-butyllithium | 61.5 mmol, 2.38M | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | N-chlorosuccinimide | 31 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (1,1-Dimethylethyl)-N2,N2,1-trimethyl-1H-pyrrole-2,3-disulfonamide | 6.95 g | CC(C)(C)C=1C(=C(N(C1)C)S(=O)(=O)N(C)C)S(=O)(=O)N | C11H21N3O4S2
